US07943669B2
{4-[3-Bromo-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester
2-(3,5-Dibromo-phenoxy)-5-trifluoromethyl-pyridine (2.5 g; 6.3 mmol) and (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (1.1 g; 4.9 mmol) was condensed to give the title product applying the procedure described for {4-[3-Bromo-5-cyclopentylmethoxyphenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester. The crude product was purified by flash chromatography (heptane→ethyl acetate:heptane 2:9). Yield 1.4 g (53%). HPLC-MS: m/z: 544.3 (M+2); Rt: 2.80 min.

reactant | 2-(3,5-Dibromo-phenoxy)-5-trifluoromethyl-pyridine | 6.3 mmol, 2.5 g | BrC=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=C(C1)Br | C12H6Br2F3NO
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 4.9 mmol, 1.1 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
product | {4-[3-Bromo-5-(5-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=C(C=C1)C(F)(F)F)Br)C)=O | C23H19BrF3NO4S
